US05716971
A mixture of 2-(5-chloro-2-methoxymethoxybenzoyl)-3-cyanopyridine (1.50 g), hydrochloric acid (2.5 ml) and THF (17.5 ml) was stirred for 13 hours at room temperature. The reaction mixture was neutralized with an aqueous solution of sodium hydroxide, followed by extraction with ethyl acetate. The extract solution was washed with a saturated aqueous saline solution and dried (anhydrous sodium sulfate), which was purified by means of a silica gel column chromatography (eluent: ethyl acetate/hexane) to give 2-(5-chloro-2-hydroxybenzoyl)-3-cyanopyridine (1.10 g) (Compound E-13). The physical properties and spectrum data are shown in Table 16 and Table 19.

reactant | 2-(5-chloro-2-methoxymethoxybenzoyl)-3-cyanopyridine | 1.50 g | ClC=1C=CC(=C(C(=O)C2=NC=CC=C2C#N)C1)OCOC | C15H11ClN2O3
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | 17.5 ml | C1CCOC1 | C4H8O
product | 2-(5-chloro-2-hydroxybenzoyl)-3-cyanopyridine | 1.10 g | ClC=1C=CC(=C(C(=O)C2=NC=CC=C2C#N)C1)O | C13H7ClN2O2
